* Phase D: cascoded HV LDMOS pair with shared gate, MM_ON=0.
*
* This is the topology that exposes the Vshift singular-matrix bug
* described in HANDOFF_ngspice_compat.md / _REPRO_RESULTS.md. With
* MM_ON=0, each subckt's `Vshift g g_int DC {-DVTH_MM}` collapses to
* a 0 V VSRC. When two LDMOSes share the external gate node, KCL at
* the shared gate becomes 0=0 (a redundant equation) and the matrix
* is singular. Some ngspice versions (e.g. 45.2 + KLU) tolerate this
* via gmin-stepping; others (e.g. 46) abort with "Timestep too small ...
* trouble with node v.x.vshift#branch".
*
* The PDK fix is a 1 GOhm shunt across each Vshift (added 2026-05-28);
* this deck regression-tests the fix and would have caught the issue
* if it had existed before the cascoded-LDMOS pattern was covered.
*
* Known portability caveat (per HANDOFF_ngspice_compat_REPLY_VERIFIED.md
* and _REPLY_FINAL.md):
*   - On ngspice 45.2: this deck passes both pre- and post-fix.
*   - On ngspice 46:   the matrix-singularity is repaired by the Rgmin
*     shunt (the "singular matrix" warning is gone), BUT a separate
*     issue in 46's transient solver still trips on the Vshift VSRC
*     branch variable at t ~ 1 ns. The Rgmin fix does resolve the
*     realistic level-shifter failure on ngspice 46 (verified by the
*     handoff author at SS / 125 C). The minimal four-LDMOS repro is
*     an ngspice-46-specific corner case that cannot be addressed
*     within the PDK without dropping the Vth mismatch mechanism
*     (VDMOS rejects `delvto`, tested 2026-05-28).
* So: do not let a future failure of this deck *only on ngspice 46*
* be confused with a PDK regression. If you see the failure pattern
* migrate to ngspice 45.2 / 47+ / KLU on a newer build, that IS a
* PDK regression and needs investigation.
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0

Vgd  gd 0 PULSE(0 5 5n 1n 1n 50n 100n)
Vdd  vdd 0 100
Rmid vdd mid 1k

XN1 vdd gd  mid  NDMOS200V W=40u L=8u
XN2 mid gd  0    NDMOS200V W=40u L=8u

Vgd2 gd2 0 PULSE(0 5 5n 1n 1n 50n 100n)
XN3 vdd  gd2 mid2 NDMOS120V W=40u
XN4 mid2 gd2 0    NDMOS120V W=40u

.control
tran 1n 200n
echo TRAN_OK
quit
.endc
.end
